US07932272B2
(2-Bromo-pyridin-3-yl)carbamic acid ethyl ester
3-Amino-2-bromopyridine described in Preparation Example S-1 (1.4 g, 8.1 mmol) was dissolved in pyridine (10 mL), ethyl chloroformate (0.93 mL, 9.7 mmol) was added dropwise on an ice bath, and the solution was stirred for 2 hours at room temperature. After the reaction was completed, the reaction solution was poured into brine, and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, then evaporated, the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4), and the title compound (0.56 g, 2.3 mmol, 28%) was obtained.

reactant | 3-Amino-2-bromopyridine | NC=1C(=NC=CC1)Br | C5H5BrN2
reactant | ethyl chloroformate | 9.7 mmol, 0.93 mL | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | brine | [Cl-].[Na+].O
product | (2-Bromo-pyridin-3-yl)carbamic acid ethyl ester | 2.3 mmol, 0.56 g, 28% | C(C)OC(NC=1C(=NC=CC1)Br)=O | C8H9BrN2O2
